### ISSUE TITLE
Gallery integrity: erdos-293 axioms are INCONSISTENT (prove False; entire file vacuous)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41224]
## Integrity Issue (CRITICAL)

**Proof**: erdos-293 (Erdős Problem #293: Missing Denominators in Egyptian Fraction Decompositions)
**File**: `proofs/Proofs/Erdos293Problem.lean`
**Problem**: The two bound axioms on `v` are mutually **inconsistent** — `False` is derivable from them, so every theorem in the file (including `erdos_293_summary`) is logically vacuous and the entry is unsound.

## Evidence

`v : ℕ → ℕ` is a natural-number–valued axiom. The two bounds:

```lean
axiom vanDoorn_Tang_lower_bound :
    ∃ c : ℝ, c > 0 ∧ ∀ k : ℕ, k > 0 → (v k : ℝ) ≥ Real.exp (c * k^2)

axiom elementary_upper_bound :
    ∀ k : ℕ, k > 0 → (v k : ℝ) ≤ k * vardiConstant ^ (2^k : ℕ)   -- vardiConstant ≈ 1.26408
```

Instantiate both at **k = 1**:
- Upper: `(v 1 : ℝ) ≤ 1 · c₀^(2^1) = c₀² ≈ 1.5979 < 2`, so (since `v 1 : ℕ`) `v 1 ≤ 1`.
- Lower: pick the witnessed `c > 0`; `(v 1 : ℝ) ≥ exp(c·1) = exp c > 1`, so `v 1 ≥ 2`.

`v 1 ≤ 1` and `v 1 ≥ 2` ⇒ **contradiction**.

Verified in Lean against the built module — this theorem compiles with no errors/sorries:

```lean
theorem erdos293_axioms_inconsistent : False := by
  obtain ⟨c, hc, hlow⟩ := vanDoorn_Tang_lower_bound
  have h1 : (v 1 : ℝ) ≥ Real.exp (c * (1:ℕ)^2) := hlow 1 (by norm_num)
  have hexp : Real.exp (c * (1:ℕ)^2) > 1 := by
    calc (1:ℝ) = Real.exp 0 := by simp
      _ < _ := Real.exp_lt_exp.mpr (by push_cast; nlinarith [hc])
  have hup : (v 1 : ℝ) ≤ (1:ℕ) * vardiConstant ^ (2^(1:ℕ)) := elementary_upper_bound 1 (by norm_num)
  have hval : (1:ℕ) * vardiConstant ^ (2^(1:ℕ)) < 2 := by
    simp only [Nat.cast_one, one_mul, pow_one]; rw [vardiConstant]; norm_num
  have : (2:ℝ) ≤ (v 1 : ℝ) := by
    have : 2 ≤ v 1 := by by_contra h; push_neg at h; interval_cases (v 1) <;> simp_all <;> linarith
    exact_mod_cast this
  linarith
```

`#print axioms erdos293_axioms_inconsistent` → depends on `propext, elementary_upper_bound, vanDoorn_Tang_lower_bound` (no sorry).

## Root cause

`elementary_upper_bound` is simply **false at small k**: at k=1 it forces `v(1) ≤ 1`, but the file's own comment (line 103) says the true value is `v(1) = 2`, and the lower bound also forces `v(1) ≥ 2`. The stated formula `k · c₀^{2^k}` only holds asymptotically / with a different constant, not for all `k > 0`.

## Recommended Fix

Make the axioms consistent so the file no longer proves `False`. Options:
1. Gate **both** bounds with a threshold: `∃ k₀, ∀ k ≥ k₀, …` (asymptotic form), matching how these bounds actually hold.
2. Correct the upper-bound constant/formula so it is true at all `k > 0` (e.g. an additive slack term), and re-check against `v(1)=2`, `v(3)=4`.

Until fixed, `status` should not present `erdos_293_summary` as a meaningful combined-bounds result — it is currently derived from an inconsistent axiom set.

**Severity**: CRITICAL (inconsistent axioms ⇒ file proves False).

---
Discovered during gallery integrity audit.
